US08981085B2
(R)—N-(5-Chloro-4-(3-(isopropylamino)piperidin-1-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide hydrochloride (30 mg, 64% yield) was prepared as described in Example 6, using propan-2-one (104 mg, 1.80 mmol) and substituting (R)—N-(4-(3-aminopiperidin-1-yl)-5-chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide hydrochloride (43 mg, 0.089 mmol) for (S)—N-(4-(3-(aminomethyl)pyrrolidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide hydrochloride. 1H NMR (400 MHz, D2O) δ 9.20-9.19 (m, 1H), 8.88-8.83 (m, 2H), 8.17 (s, 1H), 8.05-7.80 (m, 1H), 7.44-7.43 (m, 1H), 3.86-3.73 (m, 1H), 3.50-3.44 (m, 1H), 3.41-3.31 (m, 2H), 3.18-3.10 (m, 1H), 3.06-2.98 (m, 1H), 2.04-1.95 (m, 1H), 1.69-1.61 (m, 1H), 1.58-1.47 (m, 1H), 1.35-1.25 (m, 1H), 1.14 (d, 3H), 1.10 (d, 3H); LCMS (APCI+) m/z 413.1 (M+H)+, Retention time=2.06 minutes (Method 2).

reactant | propan-2-one | 1.80 mmol, 104 mg | CC(C)=O | C3H6O
reactant | (S)—N-(4-(3-(aminomethyl)pyrrolidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide hydrochloride | Cl.NC[C@H]1CN(CC1)C1=C2C(=NC=C1Br)NC=C2NC(C2=CN=CC=C2)=O
product | (R)—N-(5-Chloro-4-(3-(isopropylamino)piperidin-1-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide hydrochloride | 30 mg, 64% yield | Cl.ClC=1C(=C2C(=NC1)NC=C2NC(C2=CN=CC=C2)=O)N2C[C@@H](CCC2)NC(C)C | InChI=1S/C21H25ClN6O.ClH/c1-13(2)26-15-6-4-8-28(12-15)19-16(22)10-24-20-18(19)17(11-25-20)27-21(29)14-5-3-7-23-9-14;/h3,5,7,9-11,13,15,26H,4,6,8,12H2,1-2H3,(H,24,25)(H,27,29);1H/t15-;/m1./s1
